US07572808B2
7-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a solution of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (162 mg, 0.50 mmol) and 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine (137 mg, 0.65 mmol) in anhydrous DMF (1.5 mL) at room temperature was added anhydrous K2CO3 (105 mg, 0.75 mmol). The resulting yellow suspension was stirred at 80° C. for 5.5 h. Analysis by HPLC/MS indicated that starting 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one had been consumed. After cooling to room temperature, the reaction mixture was diluted with water and extracted with EtOAc (20 mL×3). The combined EtOAc extracts were washed with water, then saturated aqueous NaCl, dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (40 g) eluted with a gradient of ethyl acetate (0-70%) in hexanes to afford 130 mg (53%) of the title compound as a light brown foam. The product was further purified using preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 50% to 90% B over 10 min (A=0.1% trifluoroacetic acid, 90% water, 10% methanol and B=0.1% trifluoroacetic acid, 90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The resulting residue was dissolved in EtOAc, washed with saturated aqueous Na2CO3 once, water twice, then saturated aqueous NaCl, dried over Na2SO4 and evaporated. The residue was dissolved in acetonitrile, frozen and lyophilized to afford the title compound as a light yellow powder. HPLC/MS: retention time=2.80 min, [M+H]+=496.2. 1H NMR (CDCl3, 400 MHz): δ 8.56 (d, J=6.2 Hz, 2H), 7.87 (d, J=7.0 Hz, 1H), 7.68 (d, J=7.9 Hz, 1H), 7.49 (d, J=7.9 Hz, 1H), 7.27 (d, J=8.8 Hz, 2H), 7.17 (d, J=6.2 Hz, 2H), 7.05 (d, J=8.8 Hz, 2H), 6.66 (d, J=7.5 Hz, 1H), 5.23 (s, 2H), 2.75 (s, 3H).

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.50 mmol, 162 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=NC=C2 | C17H11ClN4O
reactant | 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine | 0.65 mmol, 137 mg | ClCC=1C(=NC(=CC1)C(F)(F)F)C | C8H7ClF3N
reactant | K2CO3 | 0.75 mmol, 105 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 7-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 130 mg, 53% | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O)C2=CC=NC=C2 | C25H17ClF3N5O
